.SUBCKT and_own A B OUT VDD GND
.INCLUDE inverter.sub
.INCLUDE nand_gate.sub

X1 A B node1 VDD GND nand_own
X2 node1 OUT VDD GND inverter_own

.ENDS and_own
