.SUBCKT fulladd A B Cin Sout Cout VDD GND
.INCLUDE xor_gate.sub
.INCLUDE and_gate.sub
.INCLUDE or_gate.sub

X1 A B C VDD GND and_own
X2 A B S VDD GND xor_own
X3 S Cin Sout VDD GND xor_own
X4 S Cin node1 VDD GND and_own
X5 node1 C Cout VDD GND or_own

.ENDS fulladd
