.SUBCKT or_own A B OUT VDD GND
.INCLUDE inverter.sub
.INCLUDE nor_gate.sub

X1 A B node1 VDD GND nor_own
X2 node1 OUT VDD GND inverter_own

.ENDS or_own
