.SUBCKT xnor_own A B OUT VDD GND
.INCLUDE nor_gate.sub

X1 A B node1 VDD GND nor_own
X2 A node1 node2 VDD GND nor_own
X3 node1 B node3 VDD GND nor_own
X4 node2 node3 OUT VDD GND nor_own

.ENDS xnor_own
