.SUBCKT xor_own A B OUT VDD GND
.INCLUDE nand_gate.sub

X1 A B node1 VDD GND nand_own
X2 A node1 node2 VDD GND nand_own
X3 node1 B node3 VDD GND nand_own
X4 node2 node3 OUT VDD GND nand_own

.ENDS xor_own
